US08440651B2
2-(1-((2-(2-aminophenylamino)-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methyl)piperidin-4-yl)propan-2-ol was reacted with 2,2-difluoropropanoic acid (2 eq), O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HATU, 1.5 eq) and DIPEA (4 eq) in DMF (4 mL) for 1 hr (hour). The reaction mixture was extracted with EtOAc and bicarbonate solution and the organic layer was dried with Magnesium sulfate, filtered, evaporated and purified via flash column chromatography to get 50 mg of 2,2-difluoro-N-(2-(6-((4-(2-hydroxypropan-2-yl)piperidin-1-yl)methyl)-4-morpholinopyrido[3,2-d]pyrimidin-2-ylamino)phenyl)propanamide. This intermediate was reacted with acetic acid (1.6 mL) over one week to yield 4.1 mg of 120 following reverse phase HPLC purification. MS (Q1) 552.3 (M)+

reactant | 2-(1-((2-(2-aminophenylamino)-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methyl)piperidin-4-yl)propan-2-ol | NC1=C(C=CC=C1)NC=1N=C(C2=C(N1)C=CC(=N2)CN2CCC(CC2)C(C)(C)O)N2CCOCC2 | C26H35N7O2
reactant | 2,2-difluoropropanoic acid | 2 eq | FC(C(=O)O)(C)F | C3H4F2O2
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 1.5 eq | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | DIPEA | 4 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2,2-difluoro-N-(2-(6-((4-(2-hydroxypropan-2-yl)piperidin-1-yl)methyl)-4-morpholinopyrido[3,2-d]pyrimidin-2-ylamino)phenyl)propanamide | 50 mg | FC(C(=O)NC1=C(C=CC=C1)NC=1N=C(C2=C(N1)C=CC(=N2)CN2CCC(CC2)C(C)(C)O)N2CCOCC2)(C)F | C29H37F2N7O3
